US04490369
1-[7,8-Dimethoxy-1,3,4,5-tetrahydro-2H-3-benzazepin-2-on-3-yl]-3-[N-methyl-N-(2-{4-amino-3-chloro-5-fluorophenyl}-ethyl)-amino]-propane
This compound was prepared analogous to Example 5(b) from 1-(7,8-dimethoxy-1,3,4,5-tetrahydro-2H-3-benzazepin-2-on-3-yl)-3-chloro-propane and N-methyl-N-[2-(4-amino-3-chloro-5-fluoro-phenyl)-ethyl]-amine.

reactant | 1-(7,8-dimethoxy-1,3,4,5-tetrahydro-2H-3-benzazepin-2-on-3-yl)-3-chloro-propane | COC1=CC2=C(CC(N(CC2)CCCCl)=O)C=C1OC | C15H20ClNO3
reactant | N-methyl-N-[2-(4-amino-3-chloro-5-fluoro-phenyl)-ethyl]-amine | CNCCC1=CC(=C(C(=C1)F)N)Cl | C9H12ClFN2
product | 1-[7,8-Dimethoxy-1,3,4,5-tetrahydro-2H-3-benzazepin-2-on-3-yl]-3-[N-methyl-N-(2-{4-amino-3-chloro-5-fluorophenyl}-ethyl)-amino]-propane | COC1=CC2=C(CC(N(CC2)CCCN(CCC2=CC(=C(C(=C2)F)N)Cl)C)=O)C=C1OC | C24H31ClFN3O3
